.subckt or2_x1 A1 A2 X VDD VSS
XO0_PA0 pmid_O0_0 A1 VDD VDD pmos w=2u l=100n
XO0_PB0 nor_out A2 pmid_O0_0 VDD pmos w=2u l=100n
XO0_NA0 nor_out A1 VSS VSS nmos w=1u l=100n
XO0_NB0 nor_out A2 VSS VSS nmos w=1u l=100n
XOI0_P0 X nor_out VDD VDD pmos w=2u l=100n
XOI0_N0 X nor_out VSS VSS nmos w=1u l=100n
.ends or2_x1
